US03948971
A solution of 0.67 mM of the hydroxysuccinimide ester of N-(1-methylcyclohexyloxycarbonyl) phenylalanine and 0.70 mM of alanine methyl ester hydrochloride in 10 ml. of methylene chloride is treated with triethylamine until the pH is adjusted to 7.6-8.0. Reaction is stirred six hours and the reaction mixture is washed according to the following procedure: one time with dilute sodium bicarbonate solution; once with 50% saturated sodium chloride solution; once with 0.2 N sulfuric acid saturated with sodium sulfate; and two times with 50% saturated sodium chloride solution. The resulting material is dried over sodium sulfate and the washing procedure repeated. The solvent is removed in vacuo to afford N-(1-methylcyclohexyloxycarbonyl) phenylalanine-alanine methyl ester.

reactant | N-(1-methylcyclohexyloxycarbonyl) phenylalanine | CC1(CCCCC1)OC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O | C17H23NO4
reactant | alanine methyl ester hydrochloride | 0.70 mM | Cl.COC([C@@H](N)C)=O
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | N-(1-methylcyclohexyloxycarbonyl) phenylalanine alanine methyl ester | CC1(CCCCC1)OC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O.COC([C@@H](N)C)=O | InChI=1S/C17H23NO4.C4H9NO2/c1-17(10-6-3-7-11-17)22-16(21)18-14(15(19)20)12-13-8-4-2-5-9-13;1-3(5)4(6)7-2/h2,4-5,8-9,14H,3,6-7,10-12H2,1H3,(H,18,21)(H,19,20);3H,5H2,1-2H3/t14-;3-/m00/s1
